US04668686
(d) 5-[(5-Methoxy-2-nitrophenyl)methylene]-1-methyl-2,4-imidazolidinedione (R1 =R3 =H; R2 =OCH3 ; R4 =CH3)
Reaction of 3-methoxy-6-nitrobenzaldehyde with diethyl 1-methyl-2,4-dioxoimidazolidine-5-phosphonate according to the procedure of Method D provided the title compound as a mixture of geometrical isomers, m.p. 257°-260° C. in 93% yield.

reactant | 3-methoxy-6-nitrobenzaldehyde | COC=1C=C(C=O)C(=CC1)[N+](=O)[O-] | C8H7NO4
reactant | diethyl 1-methyl-2,4-dioxoimidazolidine-5-phosphonate | CN1C(NC(C1P(OCC)(=O)OCC)=O)=O | C8H15N2O5P
product | 5-[(5-Methoxy-2-nitrophenyl)methylene]-1-methyl-2,4-imidazolidinedione | 93% yield | COC=1C=CC(=C(C1)C=C1C(NC(N1C)=O)=O)[N+](=O)[O-] | C12H11N3O5
